US08013003B2
N-(4,4-Dimethylcyclohexyl-N-methyl-[2,1,3]-benzoxadiazole-5-carboxamide
Methylamine, generated by heating a mixture of methylamine hydrochloride (10 g) and is sodium hydroxide pellets (18 g), was condensed (dry ice trap) into a solution of 4,4-dimethylcyclohexanone (1.0 g, 7.9 mmol) in 40 ml of methanol and 20 ml of THF. 10% Pd on C (400 mg) was added and the mix was hydrogenated at room temperature over night. The solids were filtered off, and the mixture concentrated under vacuum. This material and triethylamine (2 ml) were dissolved in chloroform (50 ml) and a solution of [2,1,3]-benzoxadiazole-5-carbonylchloride (900 mg, 4.9 mmol), in chloroform (40 ml), was added slowly at room temperature. After stirring the mixture for 1 hour, the organic phase was washed with 1N HCl and conc. NaHCO3 solution, dried over sodium sulfate, and concentrated under vacuum to yield an oil, which was purified using silica gel chromatography eluting with chloroform/ethyl acetate/hexane (10:20:70), to give a white solid, after crystallization from methyl-t-butyl ether (MTBE)/hexane (38 mg). Mp=143-5° C., 1H NMR (300 MHz, CDCl3, rotamers) δ 7.91 (d, 1H, J=8.7 Hz); 7.81 (sb, 1H); 7.45-7.36 (m, 1H); 4.52-4.35 and 3.45-3.30 (m+m, 1H); 3.04 and 2.89 (s+s, 3H) and 1.95-0.80 ppm (m, 14H).

reactant | Methylamine | CN | CH5N
reactant | methylamine hydrochloride | 10 g | Cl.CN
reactant | sodium hydroxide | [OH-].[Na+]
reactant | dry ice | C(=O)=O | CO2
reactant | 4,4-dimethylcyclohexanone | 7.9 mmol, 1.0 g | CC1(CCC(CC1)=O)C | C8H14O
reactant | [2,1,3]-benzoxadiazole-5-carbonylchloride | 4.9 mmol, 900 mg | N=1ON=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2O2
solvent | methanol | 40 ml | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | Pd | [Pd] | Pd
product | 4,4-Dimethylcyclohexyl-N-methyl-[2,1,3]-benzoxadiazole-5-carboxamide | CC1(CCC(CC1)C1=C(C=CC2=NON=C21)C(=O)NC)C | C16H21N3O2
